US07943609B2
(11S)-11-Isopropyl-3-(2-morpholin-4-yl-2-oxoethoxy)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine
A solution of (11S)-6-amino-11-isopropyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-3-ol (0.30 g, 1.0 mmol) dissolved in 5 mL of DMF was treated with cesium carbonate (1.0 g, 3.0 mmol) and 4-(bromoacetyl)morpholine (0.23 g, 1.1 mmol). After stirring for 18 hours at 65° C., the reaction mixture was concentrated under reduced pressure to give a solid. The solid was dissolved in CH2Cl2 (100 mL) and washed with H2O (100 mL). The organic layer was concentrated under reduced pressure to give a solid. Chromatography (SiO2, 0-15% CMA/CHCl3) gave a white solid which was crystallized from acetonitrile to give 0.18 g of the title compound as white crystals, mp 137-139° C.

reactant | (11S)-6-amino-11-isopropyl-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-3-ol | 1.0 mmol, 0.30 g | NC1=NC2=CC(=CC=C2C2=C1N=C1N2[C@H](COC1)C(C)C)O | C16H18N4O2
reactant | cesium carbonate | 3.0 mmol, 1.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-(bromoacetyl)morpholine | 1.1 mmol, 0.23 g | BrCC(=O)N1CCOCC1 | C6H10BrNO2
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (11S)-11-Isopropyl-3-(2-morpholin-4-yl-2-oxoethoxy)-10,11-dihydro-8H-[1,4]oxazino[4′,3′:1,2]imidazo[4,5-c]quinolin-6-amine | 0.18 g | C(C)(C)[C@H]1COCC=2N1C1=C(C(=NC3=CC(=CC=C13)OCC(=O)N1CCOCC1)N)N2 | C22H27N5O4
